US05606037
Step 5: 1-propyl-3-methoxycarbonyl-5,10-dioxo-5,10-dihydro-1H-naphtho-[2,3-c]-pyran.
The 1-propyl-3-methoxycarbonyl-3,4,5,10-tetrahydro-5,10-dioxo-1H-naphtho-[2,3-c]-pyran described in step 4 (50 mg, 0.159 mmol) was stirred with triphenylphosphine (166.6 mg, 0.636 mmol) and 1,4-diaza bicyclo-[2,2.2]-octane (19.6 mg, 0.175 mmol) in presence of air for a few hours at room temperature until the starting material was entirely consumed. The reaction mixture was evaporated to dryness. The crude product obtained was chromatographed (toluene/ethyl acetate=10/1, v/v) to give the titled compound (35 mg, 70%).

reactant | 1-propyl-3-methoxycarbonyl-3,4,5,10-tetrahydro-5,10-dioxo-1H-naphtho-[2,3-c]-pyran | C(CC)C1OC(CC2=C1C(C1=CC=CC=C1C2=O)=O)C(=O)OC | C18H18O5
reactant | triphenylphosphine | 0.636 mmol, 166.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,4-diaza bicyclo-[2,2.2]-octane | 0.175 mmol, 19.6 mg | N12CCN(CC1)CC2 | C6H12N2
product | 1-propyl-3-methoxycarbonyl-5,10-dioxo-5,10-dihydro-1H-naphtho-[2,3-c]-pyran | 35 mg, 70% | C(CC)C1OC(=CC2=C1C(C1=CC=CC=C1C2=O)=O)C(=O)OC | C18H16O5
